US08334301B2
2-{[4-(2-fluorophenyl)-5-(phenylthio)-1,3-thiazol-2-yl]methyl}-1H-isoindole-1,3(2H)-dione
To a solution of 2-bromo-1-(2-fluorophenyl)-2-(phenylthio)ethanone (496 mg) in N,N-dimethylformamide (5 mL) was added 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethanethioamide (357 mg), and the mixture was stirred at room temperature for 12 hr. An aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:1) to give the title compound as a pale-yellow oil (yield 351 mg, yield 51%).

reactant | 2-bromo-1-(2-fluorophenyl)-2-(phenylthio)ethanone | 496 mg | BrC(C(=O)C1=C(C=CC=C1)F)SC1=CC=CC=C1 | C14H10BrFOS
reactant | 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethanethioamide | 357 mg | O=C1N(C(C2=CC=CC=C12)=O)CC(N)=S | C10H8N2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-{[4-(2-fluorophenyl)-5-(phenylthio)-1,3-thiazol-2-yl]methyl}-1H-isoindole-1,3(2H)-dione | yield 351 mg, yield 51% | FC1=C(C=CC=C1)C=1N=C(SC1SC1=CC=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C24H15FN2O2S2
